US05332734
263 mg of N,N'-dicyclohexylcarbodiimide was added under ice-cooling to a solution of 401 mg of 2-{[N-(9-fluorenylmethoxycarbonyl)-L-valyl]amino}-6-methylbenzoic acid in 5 ml of N,N-dimethylformamide. After stirring for 3 hours, dicyclohexyl urea precipitated was filtered off and the filtrate was condensed. The residue was purified by a silica gel column chromatography (eluting solution: hexane-ethyl acetate) to afford 337 mg of 2-{1(S)-[(9-fluorenylmethoxycarbonyl)amino]-2-methylpropyl}-5-methyl-4H-3,1-benzoxazin-4-one, as a white foam. The physicochemical data are shown in Table 1.

reactant | N,N'-dicyclohexylcarbodiimide | 263 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 2-{[N-(9-fluorenylmethoxycarbonyl)-L-valyl]amino}-6-methylbenzoic acid | 401 mg | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)N[C@@H](C(C)C)C(=O)NC1=C(C(=O)O)C(=CC=C1)C | C28H28N2O5
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 2-{1(S)-[(9-fluorenylmethoxycarbonyl)amino]-2-methylpropyl}-5-methyl-4H-3,1-benzoxazin-4-one | 337 mg | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)N[C@@H](C(C)C)C1=NC2=C(C(O1)=O)C(=CC=C2)C | C28H26N2O4
